US07034039B2
Methyl 2-[(3-{[(tert-butoxycarbonyl)amino]methyl-}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl)oxy]-2-methylpropanoate (0.16 g, 0.3 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction was concentrated under reduced pressure, and the precipitated crystals were recrystallized from ethyl acetate-diisopropyl ether to give methyl 2-{[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]oxy}-2-methylpropanoate hydrochloride(0.10 g, 71.4%) as crystals.

reactant | Methyl 2-[(3-{[(tert-butoxycarbonyl)amino]methyl-}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl)oxy]-2-methylpropanoate | 0.3 mmol, 0.16 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC(C(=O)OC)(C)C)=O)CC(C)C | C30H38N2O6
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2-{[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]oxy}-2-methylpropanoate hydrochloride | 0.10 g, 71.4% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC(C(=O)OC)(C)C)=O)CC(C)C | InChI=1S/C25H30N2O4.ClH/c1-16(2)15-27-21(14-26)22(17-9-7-6-8-10-17)20-13-18(11-12-19(20)23(27)28)31-25(3,4)24(29)30-5;/h6-13,16H,14-15,26H2,1-5H3;1H
